US08445708B2
To a solution of (2S,7S)-trans-2-isopropyl-7-[4-methoxy-3-(3-methoxypropoxy)-benzoyl]-8-methylnon-4-enoic acid (1.4 g; 3.2 mmol) in 1,2-dichloroethane were added triethylsilane (3.7 g; 32 mmol) and boron trifluoride diethyl etherate (2.7 g; 19.2 mmol), and the solution was stirred at 33° C. for 3 days. The reaction mixture was added to water and the aqueous layer was extracted 3× with tert-butyl methyl ether. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The remaining residue was purified by flash chromatography (silica gel; hexane/acetone 4:1) to obtain (2S,7R)-trans-2-isopropyl-7-[4-methoxy-3-(3-methoxypropoxy)benzyl]-8-methylnon-4-enoic acid (0.97 g, 2.3 mmol, 72% yield). The NMR data are identical to the data described in US2003/0149303 A1.

reactant | (2S,7S)-trans-2-isopropyl-7-[4-methoxy-3-(3-methoxypropoxy)-benzoyl]-8-methylnon-4-enoic acid | 3.2 mmol, 1.4 g | C(C)(C)[C@@H](C(=O)O)C\C=C\C[C@@H](C(C)C)C(C1=CC(=C(C=C1)OC)OCCCOC)=O | C25H38O6
reactant | triethylsilane | 32 mmol, 3.7 g | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride diethyl etherate | 19.2 mmol, 2.7 g | B(F)(F)F.CCOCC
reactant | water | O | H2O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | (2S,7R)-trans-2-isopropyl-7-[4-methoxy-3-(3-methoxypropoxy)benzyl]-8-methylnon-4-enoic acid | 2.3 mmol, 0.97 g, 72% yield | C(C)(C)[C@@H](C(=O)O)C\C=C\C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC | C25H40O5
